US06376515B2
A mixture of [4-(aminomethyl)phenyl]-N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}carboxamide (74 mg, 0.195 mmol), 1-methyl-2-methylthio-2-imidazoline (25 mg, 0.195 mmol), NEt3 (2 mL) and pyridine (5 mL) was stirred at 80° C. overnight, concentrated and HPLC (C18 reversed phase)eluting with 0.1% TFA in H2O/CH3CN gave N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}(4-{[(1-methyl(2-imidazolin-2-yl))amino]methyl}phenyl)carboxamide (52 mg, 65%). MS found for C24H23ClN6O2 (M+H)+: 463.

reactant | [4-(aminomethyl)phenyl]-N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}carboxamide | 0.195 mmol, 74 mg | NCC1=CC=C(C=C1)C(=O)NC1=C(C=CC=C1)C(NC1=NC=C(C=C1)Cl)=O | C20H17ClN4O2
reactant | 1-methyl-2-methylthio-2-imidazoline | 0.195 mmol, 25 mg | CN1C(=NCC1)SC | C5H10N2S
reactant | NEt3 | 2 mL | CCN(CC)CC | C6H15N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}(4-{[(1-methyl(2-imidazolin-2-yl))amino]methyl}phenyl)carboxamide | 52 mg, 65% | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)CNC=1N(CCN1)C | C24H23ClN6O2
